US08222246B2
6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-((R)-1-hydroxymethyl-propyl)-nicotinamide
Hydroxybenzotriazole hydrate (45.3 mg, 0.29 mmol), N-ethyldiisopropylamine (253 μL, 1.45 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (56.7 mg, 0.29 mmol) were added at 0° C. to a solution of 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.29 mmol) and (R)-(−)-2-amino-1-butanol (34.0 μL, 0.35 mmol) in THF (8 mL). The reaction mixture was stirred at room temperature overnight. Extraction with 1 N aqueous hydrochloric acid/ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:1 to 100:0) afforded the title compound (60 mg, 50%) as a white solid. MS: m/e=414.2 [M−H]−.

reactant | Hydroxybenzotriazole hydrate | 0.29 mmol, 45.3 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-ethyldiisopropylamine | 1.45 mmol, 253 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.29 mmol, 56.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.29 mmol, 100 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13FN2O5
reactant | (R)-(−)-2-amino-1-butanol | 0.35 mmol, 34.0 μL | N[C@@H](CO)CC | C4H11NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-((R)-1-hydroxymethyl-propyl)-nicotinamide | 60 mg, 50% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)N[C@H](CC)CO)C=C1)CO | C21H22FN3O5
